US06306865B1
To a solution of N-(5,6,7,8-tetrahydro-1-naphthyl)acetamide (23 g, 0.12 mole) in DMF (120 ml) was added 80% NaH (3.9 g, 0.13 mole) portionwise over a 45 minute period and the mixture was stirred until hydrogen evolution had ceased as monitored by bubbler. 4-Fluorobenzo-nitrile nitrile (18 g, 0.15 mole) (Aldrich) was added, and the solution stirred at 90° C. under nitrogen for 3 hours. The reaction mixture was acidified with acetic acid, diluted with water (500 ml), and extracted with methylene chloride (2×500 ml). The combined extracts were washed with water (100 ml), dried (MgSO4), and concentrated in vacuo. The residue in a small volume of methylene chloride was applied to a silica gel column and eluted with ethyl acetate:hexane (1:3) to give N-(4-cyanophenyl)-N-(5,6,7,8-tetrahydro-1-naphthyl)acetamide (13.4 g). 1H NMR (CDCl3, 200 MHz) δ: 1.55-1.85 (m, 4H, CH2's), 1.96 (s, 3H, CH3), 2.10-2.32 (m, 1H, ArCH2), 2.47-2.66 (m, 1H, ArCH2), 2.76-2.88 (m, 2H, ArCH2), 7.06 (dd, J=7, 2 Hz, 1H, Ar), 7.13-7.29 (m, 2H, Ar), 7.40 (d, J=9 Hz, 2H, Ar), 7.55 (d, J=9 Hz, 2H, Ar). Anal. Calculated for C19H18N2O: C, 77.16; H, 6.34; N, 9.47. Found: C, 77.08; H, 6.12; N, 9.51.

reactant | N-(5,6,7,8-tetrahydro-1-naphthyl)acetamide | 0.12 mole, 23 g | C1(=CC=CC=2CCCCC12)NC(C)=O | C12H15NO
reactant | NaH | 0.13 mole, 3.9 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | water | 500 ml | O | H2O
product | N-(4-cyanophenyl)-N-(5,6,7,8-tetrahydro-1-naphthyl)acetamide | 13.4 g | C(#N)C1=CC=C(C=C1)N(C(C)=O)C1=CC=CC=2CCCCC12 | C19H18N2O
